US07968570B2
A mixture of 4-fluoro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester (0.100 g, 0.32 mmol), 4-chloro-benzylamine (0.051 mL, 0.42 mmol), and K2CO3 (0.088 g, 0.64 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-fluoro-2-(4-chloro-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.048 g, 44%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.28 (s, 2H), 4.75 (s, 2H) 7.24-7.51 (m, 6H). GC-MS: m/z 343 (M)+, 322 (M−21)+.

reactant | 4-fluoro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester | 0.32 mmol, 0.100 g | COC(C1=C(C=C(C=C1C(F)(F)F)F)CBr)=O | C10H7BrF4O2
reactant | 4-chloro-benzylamine | 0.42 mmol, 0.051 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | K2CO3 | 0.64 mmol, 0.088 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-fluoro-2-(4-chloro-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.048 g, 44% | FC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)Cl | C16H10ClF4NO
